US06544985B2
(RS)-[4-Chloro-5-(isobutyl-methyl-amino)-2-(3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,4]triazol-1-yl]-phenyl}-propionylamino)-phenyl]-carbamic acid tert-butyl ester
The title compound was prepared from [2-amino-4-chloro-5-(isobutyl-methyl-amino)-phenyl]-carbamic acid tert-butyl ester (Example J24) (1.0 mg, 3.05 mmol) and (RS)-3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,4]triazol-1-yl]-phenyl}-propionic acid tert-butyl ester (Example K24) (1.22 g, 3.05 mmol) according to the general procedure M. Obtained as a light brown foam (620 mg, 31%).

reactant | [2-amino-4-chloro-5-(isobutyl-methyl-amino)-phenyl]-carbamic acid tert-butyl ester | 3.05 mmol, 1.0 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)CC(C)C)Cl)N)=O | C16H26ClN3O2
reactant | (RS)-3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,4]triazol-1-yl]-phenyl}-propionic acid tert-butyl ester | 3.05 mmol, 1.22 g | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)N1N=CN=C1COC1OCCCC1)=O)=O | C21H27N3O5
product | (RS)-[4-Chloro-5-(isobutyl-methyl-amino)-2-(3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,4]triazol-1-yl]-phenyl}-propionylamino)-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)CC(C)C)Cl)NC(CC(C1=CC(=CC=C1)N1N=CN=C1COC1OCCCC1)=O)=O)=O | C33H43ClN6O6
